US08877772B2
Preparation of 3,3-dibenzyl-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
5-(3,4,5-Trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (95 mg, 0.316 mmol) and TMEDA (96 μl, 0.623 mmol) were dissolved in anhydrous THF (4 ml) and cooled to −78° C. n-BuLi (1.6 M in hexanes, 415 μl, 0.664 mmol) was added dropwise. After completed addition stirring was continued for 1 hr at −78° C. Benzyl bromide (41.3 μl, 0.348 mmol) was added dropwise as a 10% solution in anh. THF. After completed addition the reaction was allowed to warm up to room temperature while stirring overnight. The reaction was quenched by the addition of MeOH, evaporated and partitioned between water and DCM. Silica gel chromatography eluting with 0-50% EtOAc:Hexanes yielded the title compound (47 mg, 38%). 1H NMR (CDCl3, 300 MHz): δ 8.83 (s, 1H), 8.18 (d, J=1.2 Hz, 1H), 7.19 (d, J=1.2 Hz, 1H), 7.14 (m, 6H), 6.99 (m, 4H), 6.61 (s, 2H), 3.96 (s, 6H), 3.90 (s, 3H), 3.30 (d, J=8.0 Hz, 2H), 3.26 (d, J=8.0 Hz, 2H).

reactant | 5-(3,4,5-Trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 0.316 mmol, 95 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)NC(C2)=O | C16H16N2O4
reactant | TMEDA | 0.623 mmol, 96 μl | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 0.664 mmol, 1.6 M, 415 μl | [Li]CCCC
reactant | Benzyl bromide | 0.348 mmol, 41.3 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | THF | 4 ml | C1CCOC1 | C4H8O
product | 3,3-dibenzyl-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 47 mg, 38% | C(C1=CC=CC=C1)C1(C(NC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O)CC2=CC=CC=C2 | C30H28N2O4
